US04524175
A water-in-oil emulsion of an acrylamide/dodecyl methacrylate copolymer is prepared by first dispersing 112.5 g of acrylamide and 0.09 g of the pentasodium salt of diethylenetriaminepentaacetic acid in 166.5 g of water to form the aqueous phase. The oil phase is made by dissolving 2.25 g of sorbitan monooleate, 3.3 g of isopropanolamide of oleic acid, and 12 g of dodecyl methacrylate in 103.2 g of Isopar® M (a liquid hydrocarbon). The aqueous phase is then added to the oil phase in a Waring blender operating at its highest speed. The resulting water-in-oil emulsion is transferred to a 500-ml resin pot equipped with an agitator and a N2 purge tube. After the pot is purged with nitrogen for one hour, 1 g of a 10 percent solution of diisopropyl peroxydicarbonate in Isopar® M, a preferred oil-soluble initiator is added to the emulsion at 20° C. while continuing the nitrogen purge and agitation of the emulsion. The temperature of the emulsion rises to 50° C. in 20 minutes and is maintained in the range of 40° C.-50° C. during the remainder of the polymerization (i.e., about 4 hours). The resulting water-in-oil emulsion of acrylamide/dodecyl methacrylate copolymer (32.5 percent polymer solids) is recovered from the resin pot.

reactant | acrylamide | 112.5 g | C(C=C)(=O)N | C3H5NO
reactant | diethylenetriaminepentaacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | sorbitan monooleate | 2.25 g | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | dodecyl methacrylate | 12 g | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
solvent | water | 166.5 g | O | H2O
product | acrylamide dodecyl methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCCCCCCCCCCCC | InChI=1S/C16H30O2.C3H5NO/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-2-3(4)5/h2,4-14H2,1,3H3;2H,1H2,(H2,4,5)
